US08975400B2
5-(((5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)-2-(3-(trifluoromethyl)phenoxy)nicotinonitrile
Prepared in a manner similar to that described for E60 using tert-butyl 7-((5-cyano-6-(3-(trifluoromethyl)phenoxy)pyridin-3-yl)methoxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate (120 mg, 0.227 mmol) in DCM (4 mL) and TFA (0.873 mL, 11.3 mmol).

reactant | tert-butyl 7-((5-cyano-6-(3-(trifluoromethyl)phenoxy)pyridin-3-yl)methoxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate | 0.227 mmol, 120 mg | C(#N)C=1C=C(C=NC1OC1=CC(=CC=C1)C(F)(F)F)COC=1C=C2N(C(N1)=O)CCN2C(=O)OC(C)(C)C | C25H22F3N5O5
reactant | TFA | 11.3 mmol, 0.873 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | 5-(((5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)-2-(3-(trifluoromethyl)phenoxy)nicotinonitrile | O=C1N=C(C=C2N1CCN2)OCC=2C=NC(=C(C#N)C2)OC2=CC(=CC=C2)C(F)(F)F | C20H14F3N5O3
